US05891909
a) 5-Methyl-3-(2-methyl-5-nitrophenylsulfonyloxy)phenol
Orcinol monohydrate (2.84 g, 20.0 mmol) and 2-methyl-5-nitrobenzenesulfonyl chloride (4.71 g, 20.0 mmol) were mixed in saturated aqueous NaHCO3 (60 mL) and diethyl ether (60 mL). The biphasic mixture was stirred vigorously at ambient temperature overnight. The reaction mixture was diluted with water (100 mL) and extracted into ethyl acetate (3×60 mL). The organic phase was washed with brine (2×50 mL) and dried over Na2SO4. After removing the solvent in vacuo, the residue was purified by flash column chromatography (dichloromethane to 5% ethyl acetate in dichloromethane) to give the title compound as a pale yellow solid (4.20 g, 72%). 1H-NMR (300 MHz, CDCl3) δ 8.71 (s, 1H), 8.37 (d, J=8.4 Hz, 1H), 7.62 (d, J=8.4 Hz, 1H), 6.56 (s, 1H), 6.44 (s, 1H), 6.33 (s, 1H), 5.42 (s, 1H), 2.91 (s, 3H), 2.23 (s, 3H).

reactant | Orcinol monohydrate | 20.0 mmol, 2.84 g | O.C1(=CC(O)=CC(C)=C1)O
reactant | 2-methyl-5-nitrobenzenesulfonyl chloride | 20.0 mmol, 4.71 g | CC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)Cl | C7H6ClNO4S
solvent | NaHCO3 | 60 mL | C(=O)(O)[O-].[Na+]
solvent | diethyl ether | 60 mL | C(C)OCC | C4H10O
solvent | water | 100 mL | O | H2O
product | 5-Methyl-3-(2-methyl-5-nitrophenylsulfonyloxy)phenol | 4.20 g, 72% | CC=1C=C(C=C(C1)O)OS(=O)(=O)C1=C(C=CC(=C1)[N+](=O)[O-])C | C14H13NO6S
